US05723606
Using o-(4-methylphenyl)benzoic acid and 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one as starting materials, the procedure of Reference Example 3 was repeated to obtain 2-(4-methylphenyl)-4-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]benzanilide.

reactant | o-(4-methylphenyl)benzoic acid | CC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O2
reactant | 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | NC1=CC=C(C(=O)N2CCCC(C3=C2C=CC=C3)=O)C=C1 | C17H16N2O2
product | 2-(4-methylphenyl)-4-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]benzanilide | CC1=CC=C(C=C1)C1=C(C(=O)NC2=CC=CC=C2)C=CC(=C1)C(=O)N1CCCC(C2=C1C=CC=C2)=O | C31H26N2O3
